US06399641B1
9H-Xanthene-9-carboxylic acid (2-cyanomethyl-2H-tetrazol-5-yl)-amide
The title compound, white solid, m.p. 204-205° and MS: m/e=333.2 (M++H) was prepared in accordance with the general method of example 1 from (5-amino-tetrazol-2-yl)-acetonitrile and 9H-xanthene-9-carbonyl chloride.

reactant | (5-amino-tetrazol-2-yl)-acetonitrile | NC=1N=NN(N1)CC#N | C3H4N6
reactant | 9H-xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 9H-Xanthene-9-carboxylic acid (2-cyanomethyl-2H-tetrazol-5-yl)-amide | C(#N)CN1N=C(N=N1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C17H12N6O2
